US05756510
p-Toluidine (9.3 mM) was dissolved in hydrochloric acid (5M; 10 ml), and the mixture cooled to <0° C. Sodium nitrite (10.28 mM) was dissolved in a minimum amount of water, and this solution was added dropwise to the reaction over 30 minutes. The solution was stirred for 20 minutes, then the presence of the oxidising agent was tested for using starch/iodide paper. Sodium azide (37.38 mM) was then added slowly to the reaction mixture over a period of 1 hour (due to vigorous effervescing). The reaction was quenched, once all the sodium azide had been added, in water (50 ml), and quantitatively transferred to a conical flask with water (50 ml). The mixture was neutralised with sodium carbonate, until pH=6. The organics were extracted into dichloromethane (3×30 ml), washed with water (2×20 ml), dried over magnesium sulphate, and excess solvent removed under vacuum. The p-azidotoluene thus obtained was an oil and was isolated via chromatography (100% petroleum/ether 40-60).

reactant | p-Toluidine | 9.3 mM | NC1=CC=C(C=C1)C | C7H9N
reactant | Sodium nitrite | 10.28 mM | N(=O)[O-].[Na+]
reactant | Sodium azide | 37.38 mM | [N-]=[N+]=[N-].[Na+]
solvent | hydrochloric acid | 5M, 10 ml | Cl | ClH
solvent | water | O | H2O
product | p-azidotoluene | N(=[N+]=[N-])C1=CC=C(C=C1)C | C7H7N3
